US03985746
7-Amino-3-cephem-4-carboxylic acid benzhydryl ester (366 mg.) (prepared by the method of Netherlands Patent no. 7,309,135) is dissolved in methylene chloride (5 ml.), cooled in an ice bath, and cyanomethylthioacetyl chloride (149 mg.) in methylene chloride (5 ml.) is added followed by triethylamine (101 mg.). The mixture is stirred for 4 hours at 0°-5° and, after diluting with methylene chloride the reaction mixture is washed with water then with pH 4 buffer, and dried (Na2SO4). The solvent is removed in vacuo yielding the product 7-cyanomethylthioacetamido-3-cephem-4-carboxylic acid benzhydryl ester as an oil.

reactant | 7-Amino-3-cephem-4-carboxylic acid benzhydryl ester | 366 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C(C2N)=O | C20H18N2O3S
reactant | cyanomethylthioacetyl chloride | 149 mg | C(#N)CCC(=S)Cl | C4H4ClNS
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-cyanomethylthioacetamido-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C(C2NC(CCC#N)=S)=O | C24H21N3O3S2
